US08486940B2
(S)-3-(1H-benzo[d]imidazol-6-yl)-4-(3-(4-methylpiperazin-1-yl)Phenyl)oxazolidin-2-one
The compound was synthesized according to method 6 starting from 3-(4-methylpiperazin-1-yl)benzaldehyde (11 g, 53.92 mmol), KCN (3.5 g, 53.9 mmol), ammonium carbonate (4.381 g, 67.40 mmol), NaOH (12 g, 775.32 mmol), thionyl chloride (22.74 g, 313.25 mmol), di tertiary butyl dicarbonate (1.8 g, 11.59 mmol), triethylamine (3.23 mL, 23.18 mmol), sodium borohydride (2.45 g, 65.01 mmol), thionyl chloride (0.864 mL, 11.54 mmol), 1,2-diamino-4-bromo benzene (181 mg, 0.969 mmol), cesium fluoride (267 mg, 1.762 mmol), cis-1,2-diamino cyclo hexane (0.015 mL, 0.132 mmol), formic acid (5 mL). Yield: 50 mg (0.25%), MS m/z 378.3 (M+H)+, 1H-NMR (400 MHz, DMSO-d6): δ 12.39 (d, 1H); 8.16 (d, 1H); 7.59-7.11 (m, 4H); 6.95 (d, 1H); 6.28-6.72 (m, 2H); 5.63-5.61 (q, 1H); 4.8 (t, 1H); 4.12 (t, 1H); 3.07 (d, 4H); 2.49-2.40 (m, 4H); 2.19 (s, 3H), HPLC (λ=214 nm), [A]: rt 6.53 min (93.54%)

reactant | 3-(4-methylpiperazin-1-yl)benzaldehyde | 53.92 mmol, 11 g | CN1CCN(CC1)C=1C=C(C=O)C=CC1 | C12H16N2O
reactant | KCN | 53.9 mmol, 3.5 g | [C-]#N.[K+]
reactant | ammonium carbonate | 67.40 mmol, 4.381 g | C([O-])([O-])=O.[NH4+].[NH4+]
reactant | NaOH | 775.32 mmol, 12 g | [OH-].[Na+]
reactant | thionyl chloride | 313.25 mmol, 22.74 g | S(=O)(Cl)Cl | Cl2OS
reactant | di tertiary butyl dicarbonate | 11.59 mmol, 1.8 g | C(=O)(OC(C)(C)C)OC(=O)OC(C)(C)C | C10H18O5
reactant | triethylamine | 23.18 mmol, 3.23 mL | C(C)N(CC)CC | C6H15N
reactant | sodium borohydride | 65.01 mmol, 2.45 g | [BH4-].[Na+]
reactant | thionyl chloride | 11.54 mmol, 0.864 mL | S(=O)(Cl)Cl | Cl2OS
reactant | 1,2-diamino-4-bromo benzene | 0.969 mmol, 181 mg | NC1=C(C=C(C=C1)Br)N | C6H7BrN2
reactant | cesium fluoride | 1.762 mmol, 267 mg | [F-].[Cs+]
reactant | cis-1,2-diamino cyclo hexane | 0.132 mmol, 0.015 mL | N[C@H]1[C@H](CCCC1)N | C6H14N2
solvent | formic acid | 5 mL | C(=O)O | CH2O2
product | (S)-3-(1H-benzo[d]imidazol-6-yl)-4-(3-(4-methylpiperazin-1-yl)Phenyl)oxazolidin-2-one | N1C=NC2=C1C=C(C=C2)N2C(OC[C@@H]2C2=CC(=CC=C2)N2CCN(CC2)C)=O | C21H23N5O2
